US05552397
a) 1-[(Phenylmethoxy)carbonyl]-3-pyrazolidinecarboxylic acid, 1,1-dimethylethyl ester
A solution of 3-pyrazolidinecarboxylic acid, 1,1-dimethylethyl ester (10.935 g., 63.5 mmol.) in dry acetonitrile (90 ml.) was cooled to 0° C. (ice-salt bath) and treated with dry pyridine (11.0 ml.) followed by a solution of benzylchloroformate (12.54 g., 10.5 ml., 69.9 mmol.) in dry acetonitrile (25 ml.). The reaction was stirred at 0° C. for 3 hours, evaporated to dryness and the syrup obtained was redissolved in ethyl acetate (250 ml.). The solution was washed with 5% sodium bicarbonate (2×25 ml.) and brine (25 ml.), dried (anhydrous sodium sulfate), filtered, evaporated to dryness and dried in vacuo. The crude product mixture was chromatographed on a silica gel column (Merck), eluting the column with ethyl acetate:hexane mixtures (1:4; 1:2) to give 11.144 g. of title product as a syrup. TLC(ethyl acetate:hexane, 1:1) Rf =0.25.

reactant | 3-pyrazolidinecarboxylic acid, 1,1-dimethylethyl ester | 63.5 mmol, 10.935 g | N1NC(CC1)C(=O)OC(C)(C)C | C8H16N2O2
reactant | pyridine | 11.0 ml | N1=CC=CC=C1 | C5H5N
reactant | benzylchloroformate | 69.9 mmol, 10.5 ml, 12.54 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(Phenylmethoxy)carbonyl]-3-pyrazolidinecarboxylic acid, 1,1-dimethylethyl ester | C1(=CC=CC=C1)COC(=O)N1NC(CC1)C(=O)OC(C)(C)C | C16H22N2O4
